US07060844B2
Preparation of 2-(3-oxo-1,3-dihydro-2-benzofuran-1-yl)acetamide
A solution of (3-oxo-1,3-dihydro-isobenzofuran-1-yl)-acetic acid (5.0 g, 26 mmol) in thionyl chloride (10 ml) was heated at 75° C. for 15 minutes. The excess thionyl chloride was removed under vacuum to give a red oil. The red oil was dissolved in CH2Cl2 (10 ml) and then the solution was slowly added to concentrated NH4OH (40 ml) at 0° C. The resultant solid was filtered and washed with water and hexane, followed by addition of toluene. Removal of the solvent led to 2-(3-oxo-1,3-dihydro-2-benzofuran-1-yl)acetamide as a cream solid (4.2 g, 84%).

reactant | (3-oxo-1,3-dihydro-isobenzofuran-1-yl)-acetic acid | 26 mmol, 5.0 g | O=C1OC(C2=CC=CC=C12)CC(=O)O | C10H8O4
reactant | NH4OH | 40 ml | [NH4+].[OH-]
solvent | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-(3-oxo-1,3-dihydro-2-benzofuran-1-yl)acetamide | O=C1OC(C2=C1C=CC=C2)CC(=O)N | C10H9NO3
